US08614239B2
Preparation of Intermediate 5-Amino-6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one (I-11a)
Concentrated HCl (2.5 mL) was added to a solution of 6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-5-nitro-1,3-dihydro-benzoimidazol-2-one (1.6 g, 3.4 mmol) in THF (35 mL) and the resulting mixture was stirred for 5 min. This was followed by portion wise addition of zinc powder (2.2 g, 34 mmol) over a period of 30 minutes and stirring was continued for a further 30 minutes at room temperature. The reaction was monitored by TLC (60% ethyl acetate in hexane). The reaction mixture was concentrated and the concentrate was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine and concentrated. The crude product was triturated with ether, filtered and the residue was dried to afford 1.4 g of the product (94.5% yield).

reactant | HCl | 2.5 mL | Cl | ClH
reactant | 6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-5-nitro-1,3-dihydro-benzoimidazol-2-one | 3.4 mmol, 1.6 g | FC=1C(=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)I)F)C1F)OC)[N+](=O)[O-] | C14H7F3IN3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | zinc | 34 mmol, 2.2 g | [Zn] | Zn
product | 5-Amino-6,7-difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one | 1.4 g, 94.5% yield | NC1=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)I)F)C(=C1F)F)OC | C14H9F3IN3O2
